US05550134
(+)-(4aR)-(10bR)-4-methyl-8-(3,4-methylenedioxyphenyl) -10b-methyl-1,2,3,4,4a, 5,6,10b-octahydrobenz[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)- 10bR)-4-methyl-8-bromo-10b-methyl-1,2,3,4,4a, 5,6,10b-octahydrobenzo[f]quinolin-3-one 200 mg, 0.65 mmol), tetrakis (triphenylphosphine) palladium (0) (23 mg, 0.02 mmol), 3,4-methylenedioxyphenyl boronic acid (131 mg, 0.78 mmol), 0.65 mL of 2M sodium carbonate solution and 2 mL of THF, fitted with a reflux condenser, and the stirred mixture was heated at 80°, under nitrogen, for 24 h. The mixture was cooled, diluted with chloroform (50 mL) and washed with brine (2×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (ethyl acetate eluent), to give 130 mg (57%) of the title compound as an amorphous solid. mp 146°-152° FDMS: m/e=349. α[D]589 =+67.92 (c=1.06, chloroform).

reactant | 4-methyl-8-bromo-10b-methyl-1,2,3,4,4a, 5,6,10b-octahydrobenzo[f]quinolin-3-one | 0.65 mmol, 200 mg | CN1C(CCC2(C3=C(CCC12)C=C(C=C3)Br)C)=O | C15H18BrNO
reactant | 3,4-methylenedioxyphenyl boronic acid | 0.78 mmol, 131 mg | C1OC=2C=C(C=CC2O1)B(O)O | C7H7BO4
reactant | sodium carbonate | 2M, 0.65 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.02 mmol, 23 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (+)-(4aR)-(10bR)-4-methyl-8-(3,4-methylenedioxyphenyl) -10b-methyl-1,2,3,4,4a, 5,6,10b-octahydrobenz[f]quinolin-3-one | 130 mg, 57% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C3=CC1=C(C=C3)OCO1)C)=O | C22H23NO3
